US06624331B1
A 300-ml three-necked flask was charged with 15.2 g (0.1 mole) of 2-benzyloxyethanol, 100 ml of dichloromethane and 20 ml of water, and further with 2.6 g (15 mmoles ) of dipotassium hydrogenphosphate and 32 mg (0.15 mmole) of 4-acetoxy-2,2,6,6-tetramethyl-piperidinyl-1-oxy, and the mixture was cooled with ice water to 0 to 5° C. with stirring. To the mixed solution, with stirring, 46.6 g (75 mmoles ) of a 12% aqueous solution of sodium hypochlorite was added dropwise over 2 hours, while care was being taken not to permit the temperature to exceed 20° C. After completion of the addition, the mixture was stirred at the same temperature for 30 minutes. To the obtained mixture, 30 ml of a 5% aqueous solution of sodium thiosulfate was added, and the resulting mixture wasstirred for 5 minutes. The organic layer was then separated from the mixture. The organic layer separated was washed with 30 ml of saturated aqueous solution of sodium chloride and the solvent was distilled off. The residue obtained was further subjected to vacuum distillation, to yield 7.5 g of benzyloxyacetaldehyde as a fraction at a boiling point of 118 to 120° C./13 mmHg and 4.6 g of unreacted 2-benzyloxyacetaldehyde as a fraction at a boiling point of 128 to 130° C./13 mmHg (yield of benzyloxyacetaldehyde based on the 2-benzyloxyethanol that had reacted: 71.4%, ratio of recovery of 2-benzyloxyethanol: 30.2%).

reactant | 2-benzyloxyethanol | 0.1 mole, 15.2 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | dipotassium hydrogenphosphate | 15 mmoles, 2.6 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-benzyloxyacetaldehyde | 4.6 g | C(C1=CC=CC=C1)OCC=O | C9H10O2
